US07157464B2
Synthesis of 1-[4-(4-Chloro-3-methyl-phenyl)-piperazin-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-Chloro-3-methylphenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.25 (d, 1H), 7.05 (s,1H), 6.90 (d, 1H), 5.38 (s, 2H), 3.64 (m, 4H), 3.27 (m, 2H), 3.17 (m, 2H), 2.26 (s, 3H), 2.19 (s, 3H) ppm; MS (ES) M+H expected=435.1, found=435.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-Chloro-3-methylphenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)C | C11H15ClN2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 1-[4-(4-Chloro-3-methyl-phenyl)-piperazin-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O)C | C18H19Cl2F3N4O
